US07851473B2
(2) 2-Bromo-4-(2,3-dichlorophenyl)-1,3-thiazole
A 25% hydrogen bromide/acetic acid (30 ml) solution was added to a solution of 2-(2,3-dichlorophenyl)-2-oxoethyl thiocyanate (3.10 g, 12.6 mmol) in acetic acid (30 ml), and the mixture was stirred at 130° C. for 2 hours. Water (60 ml) was poured to the reaction mixture, and crystals were collected by filtration and washed with water to give 3.68 g (94.6%) of the desired product as a solid.

reactant | hydrogen bromide acetic acid | 30 ml | Br.C(C)(=O)O
reactant | 2-(2,3-dichlorophenyl)-2-oxoethyl thiocyanate | 12.6 mmol, 3.10 g | ClC1=C(C=CC=C1Cl)C(CSC#N)=O | C9H5Cl2NOS
reactant | Water | 60 ml | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 2-Bromo-4-(2,3-dichlorophenyl)-1,3-thiazole | 3.68 g, 94.6% | BrC=1SC=C(N1)C1=C(C(=CC=C1)Cl)Cl | C9H4BrCl2NS
